US08048881B2
495.1. 3-(tert-butyl-dimethyl-silanyloxy)-2,2-dimethyl-propionic acid methyl ester
Methyl 2,2-dimethyl-3-hydroxypropionate (1.32 g), tert-butyldimethylsilyl chloride (1.8 g), 4-dimethylaminopyridine (122 mg) and NEt3 (1.67 ml) were dissolved in DCM (100 ml) and stirred for 16 h at RT. A NaHSO4 solution was added, and the org. phase was further washed with water, dried (Na2SO4) and evaporated off. Column chromatography (EA/Hept 1/4) afforded 800 mg of the desired compound.

reactant | Methyl 2,2-dimethyl-3-hydroxypropionate | 1.32 g | CC(C(=O)OC)(CO)C | C6H12O3
reactant | tert-butyldimethylsilyl chloride | 1.8 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | NEt3 | 1.67 ml | CCN(CC)CC | C6H15N
reactant | NaHSO4 | OS(=O)(=O)[O-].[Na+]
catalyst | 4-dimethylaminopyridine | 122 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-(tert-butyl-dimethyl-silanyloxy)-2,2-dimethyl-propionic acid methyl ester | 800 mg | COC(C(CO[Si](C)(C)C(C)(C)C)(C)C)=O | C12H26O3Si
